US07034093B2
Cyclohexylmagnesium bromide (1.05 mL of a 2.0 M solution in ethyl ether, 2.1 mmol, Aldrich) was added to a solution of isobutyraldehyde 2,6-diisopropylphenylimine (0.462 g, 2.0 mmol) in THF (5 mL) at −78° C. The yellowish solution was warmed to RT, stirred for 1 h and then added to a solution of dichloromethylphosphine (0.19 mL, 2.1 mmol, Strem) in THF (5 mL) at −78° C. The solution was stirred for 10 min at −78° C., warmed to RT and stirred for 30 min. Assay by 31P-NMR (crude reaction mixture) showed the presence of a single major product (+110.4 ppm). The solution of 2,4,6-triisopropylphenyllithium was prepared by addition of BuLi (1.6 mL of a 1.6 M solution in hexanes, 2.6 mmol, Aldrich) to a solution of 1-bromo-2,4,6-triisopropylbenzene (0.63 mL, 2.5 mmol, Lancaster) in THF (8 mL) at −78° C. followed by stirring for 2 h. The solution of arylLi thus formed was added to the solution of chlorophosphine keeping both flasks at −78° C. The solution was stirred for 20 min at −78° C., warmed to RT and stirred for 30 min. Assay by 31P-NMR (crude reaction mixture) showed the presence of a single major product (−37.9 ppm). The solution was evaporated and CH2Cl2 (10 mL) was added to the residue. Filtration through a 2.2×2 cm plug of silica gel using CH2Cl2 (20 mL) and then ethyl ether (10 mL) as an eluent followed by evaporation of the solvent afforded crude product as a yellowish oil. To the crude ligand was added NiBr2(DME) (0.124 g, 0.40 mmol) and CH2Cl2 (10 mL). The red-brown solution was stirred for 1 h at RT, solution was evaporated and the residue washed with diethyl ether (3×20 mL) and hexanes (20 mL). A brown, insoluble solid (0.310 g, 107% based on Ni) was obtained.

reactant | Cyclohexylmagnesium bromide | C1(CCCCC1)[Mg]Br
reactant | isobutyraldehyde 2,6-diisopropylphenylimine | 2.0 mmol, 0.462 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=CC(C)C | C16H25N
reactant | dichloromethylphosphine | 2.1 mmol, 0.19 mL | ClC(Cl)P | CH3Cl2P
reactant | BuLi | [Li]CCCC
reactant | 1-bromo-2,4,6-triisopropylbenzene | 2.5 mmol, 0.63 mL | BrC1=C(C=C(C=C1C(C)C)C(C)C)C(C)C | C15H23Br
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 2,4,6-triisopropylphenyllithium | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)[Li] | InChI=1S/C15H23.Li/c1-10(2)13-7-14(11(3)4)9-15(8-13)12(5)6;/h7-8,10-12H,1-6H3;
